US07642276B2
N-(3-Iodo-4-methylphenyl)thiophene-3-amide
Thiophene-3-carboxylic acid (2.75 g) and HATU (8.15 g) in DMF (25 ml) were stirred at room temp for 15 min. HOBT (2.9 g), 3-iodomethylaniline (5.0 g) and DIPEA (11.2 ml, 64.35 mmol) were added and the reaction was stirred at room temp for 16 h. The solvent was evaporated under vacuum and the residue was partitioned between ethyl acetate (100 ml) and aqueous sodium carbonate (10%, 100 ml). The aqueous layer was extracted with ethyl acetate (50 ml) and the combined organic phases washed with hydrochloric acid (2N, 75 ml), water (75 ml) and brine (75 ml). The organic phase was dried (magnesium sulphate) and absorbed onto silica. The silica was applied to a silica column and eluted with cyclohexane/ethyl acetate (4:1). The solvent was evaporated from the product fractions under vacuum to the tide compound.

reactant | Thiophene-3-carboxylic acid | 2.75 g | S1C=C(C=C1)C(=O)O | C5H4O2S
reactant | HATU | 8.15 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | 2.9 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-iodomethylaniline | 5.0 g | ICC=1C=C(N)C=CC1 | C7H8IN
reactant | DIPEA | 64.35 mmol, 11.2 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | N-(3-Iodo-4-methylphenyl)thiophene-3-amide | IC=1C=C(C=CC1C)NC(=O)C1=CSC=C1 | C12H10INOS
